US07179823B1
A mixture of 4-chloromethyl-2-phenylthiazole (8.60 g), sodium acetate (10.1 g) and N,N-dimethylformamide (80 ml) was stirred at 80° C. for 6 hours. After cooling, the reaction solution was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. A mixture of the residue, 4N aqueous sodium hydroxide solution (25 ml), tetrahydrofuran (50 ml) and methanol (50 ml) was stirred at room temperature for 5 minutes, and poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain 2-phenyl-4-thiazolylmethanol (7.05 g, yield 90%) as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio). This was recrystallized from hexane. Melting point: 71–72° C.

reactant | 4-chloromethyl-2-phenylthiazole | 8.60 g | ClCC=1N=C(SC1)C1=CC=CC=C1 | C10H8ClNS
reactant | sodium acetate | 10.1 g | C(C)(=O)[O-].[Na+]
reactant | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-phenyl-4-thiazolylmethanol | 7.05 g, yield 90% | C1(=CC=CC=C1)C=1SC=C(N1)CO | C10H9NOS
